US07205409B2
(2S)-1-((5R/S)-5-(2-phenylethyl)-L-prolyl)pyrrolidine-2-carbonitrile
The title compound was synthesized by substituting 2-(2-(S)-cyano-pyrrolidine-1-carbonyl)-5-(R/S)-(2-m-tolyl-vinyl)-pyrrolidine-1-carboxylic acid tert-butyl ester in Example 36 with 2-(2-(S)-cyano-pyrrolidine-1-carbonyl)-5-(R/S)-(2-phenyl-vinyl)-pyrrolidine-1-carboxylic acid tert-butyl ester. 1H NMR (500 MHz, MeOH-d4) δ 1.83 (m, 1H), 1.99 (m, 2H), 2.26 (m, 6 H), 2.65 (m, 1H), 2.77 (m, 2H), 3.64 (dd, J=7.02, 6.39 Hz, 2H), 3.76 (m, 1H), 4.58 (t, J=8.26 Hz, 1H), 4.83 (dd, J=7.95, 4.52 Hz, 1H), 7.25 (m, 5H) ppm. MS (DCI) m/z 298 (M+H)+.

reactant | 2-(2-(S)-cyano-pyrrolidine-1-carbonyl)-5-(R/S)-(2-m-tolyl-vinyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1C=CC=1C=C(C=CC1)C)C(=O)N1[C@@H](CCC1)C#N | C24H31N3O3
reactant | 2-(2-(S)-cyano-pyrrolidine-1-carbonyl)-5-(R/S)-(2-phenyl-vinyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1C=CC1=CC=CC=C1)C(=O)N1[C@@H](CCC1)C#N | C23H29N3O3
product | (2S)-1-((5R/S)-5-(2-phenylethyl)-L-prolyl)pyrrolidine-2-carbonitrile | C1(=CC=CC=C1)CCC1CC[C@H](N1)C(=O)N1[C@@H](CCC1)C#N | C18H23N3O
